US07790709B2
Preparation of (E)-N-Methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-(2-oxo-2,3-dihydro-oxazolo[4,5-b]pyridin-6-yl)acrylamide
According to the procedure of Example 1 (a), except substituting methyl-(1-methyl-1H-indol-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-(2-oxo-2,3-dihydro-oxazolo[4,5-b]pyridine-6-yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.23 g, 34%) was prepared as an off-white solid and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 12.64 (br s, 1H), 8.37-8.12 (m, 2H), 7.64 (d, J=15.3 Hz, 1H), 7.51-7.26 (m, 3H), 7.17-7.07 (m, 1H), 7.04-6.94 (m, 1H), 6.42-6.17 (m, 1H), 5.06-4.85 (m, 2H), 3.73-3.68 (m, 3H), 3.12-2.99 (m, 3H); MS (ESI) m/e 363 (M+H)+.

reactant | methyl-(1-methyl-1H-indol-2-ylmethyl)amine | CNCC=1N(C2=CC=CC=C2C1)C | C11H14N2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-(2-oxo-2,3-dihydro-oxazolo[4,5-b]pyridine-6-yl)acrylic acid hydrochloride | Cl.O=C1OC=2C(=NC=C(C2)/C=C/C(=O)O)N1
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-N-Methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-(2-oxo-2,3-dihydro-oxazolo[4,5-b]pyridin-6-yl)acrylamide | 0.23 g, 34% | CN(C(\C=C\C=1C=C2C(=NC1)NC(O2)=O)=O)CC=2N(C1=CC=CC=C1C2)C | C20H18N4O3
